### PR TITLE
boundary library: the bit interface and the Type1 encode

### PR DESCRIPTION
**Pull request by martyall**
Stacked on #313. The boundary-library arc from the review: the Fq ← ℤ → Fp vocabulary lands at its homes, with **one datum crossing every seam — a bit vector and its integer `natLsbVal bs`**. Laws compose because outputs are inputs; statements read as the mathematics.

- **The relocation pass**: `unpack_full`/`lt_bitstring_value`, their laws, and the MSB-first value mirror move from the schnorr package into `Snarky.Circuit.DSL` — their OCaml home is snark0.ml, the base DSL — and the deployed Fq `ToNat` instance joins the bridge dictionaries beside `HasCurve`.
- **The `Type1` codec as PS declares it** (`Shifted (F Vesta.ScalarField) (Type1 (F Vesta.BaseField))`, one field pair, no abstract moduli): `Type1.toShifted : Fp → Type1 Fq` shifts by field division and carries the canonical representative across the boundary; `Type1.fromShifted : Type1 Fq → Fp` is the decode integer (`fromShiftedZ`) reduced. The round trip `fromShifted_toShifted` is unconditional — the `p ≤ q` and halving-constant hypotheses of the earlier generic draft were artefacts of the abstraction. the ladder laws state results through `Pasta.Shifted.unshiftType1`/`unshiftType2` — binders weakened from `Field` to `Semiring`, so the one `Shifted_value` algebra serves the gate semantics at `F` and the laws at `ℤ`; the snarky twins, the `SplitField` carrier, and the `⟨v⟩ : Type1 ℤ` packaging at every ℤ site are gone; `toShifted_ladderRegime` is its deployed-Vesta regime fact. The completeness endpoints' encoding hypotheses are dischargeable, and `Schnorr.complete` runs the constructive boundary at `Type1.toShifted`.
- **Review round (the `b113b624` comments), one commit per item:** `Type1.zeroCarrier`/`fromShifted_eq_zero_iff` move down to the codec module; the six `UnpackFull` laws carry `@[spec]` and the consumers stop hand-instantiating them; the seam bridge lemmas are `private`; the ladder integer is written by its name `unshiftType1 (5 * chunks) (natLsbVal bs.toList : ℤ)`; the schnorr lock reads all 255 bits (no `take` — PS `varBaseMul` genuinely carries both `n` and `nChunks`, so the gadget's parameterization stays); and the representation fork is closed for real: `Kimchi.Bits` holds `natLsbVal` and its laws below both consumers (the DSL re-exports them), the kimchi ladder semantics state `gateRegister`/`chain_accN` at `natLsbVal (runBools g m)` with the MSB-first folds private, and `msbVal` is gone (`ltPure_iff_lt` reads `natLsbVal` of the reversals). One bit-value function remains in the workspace.
- **One ladder spec at the one integer**: `varBaseMul_spec` emits per-index LSB-first boolean readings of its bit wires, the scalar cell as the cast of their ℕ value — the gadget's whole truth: the wire pins the value only mod the characteristic; canonicity is a lock's business — and the action at `2·⟦bs⟧ + 2^bits + 1`. `exists_lsbView` is the gate seam's single representation bridge, so no other proof converts representations. `assertBitsBelow` packages the canonicity lock for bits a consumer already holds; `unpackFull` becomes `unpack ∘ assertBitsBelow` at definition and law level, and the schnorr circuit pays the same gadget on the ladder's bits. `bitsVal`/`bitsRegister`/`msbVal` appear in no consumer.

Net +161 lines for the three, consumer boilerplate deleted throughout (the schnorr response leg's ~45-line vocabulary bridge is now three lemma applications). Green at tip: build, style, snarky gate (188 roots), schnorr gate (11 roots), deadcode 2712/2712.

Queue closed: `packLow k hk bits` is a DSL gadget (irreducible; `packLow_eval`/`packLow_val` land on `natLsbVal (bs.toList.take k)`), the schnorr challenge is `packLow 128` and `challengeOf` with its slice helpers is gone; `LawfulToNat F` (beside `ToNat`: `card`, `cast_toNat`, `toNat_lt`) with the one generic instance pair at `ZMod p` replaces every per-field `ToNat` instance, `SizedF.Fits` is the width promise alone, and all eleven completeness laws drop their faithfulness conjunct. The `(n, chunks)` narrowing is NOT done on purpose — PS `varBaseMul` carries both `n` and `nChunks`, so the gadget keeps them; the schnorr lock simply reads all 255 bits. **Reading boilerplate, then the sponge carrier:** `CircuitType.ofEquiv` (already in the library, never applied) now carries every nominal bundle — `AffinePoint`, `CurvePoint`, `Type1`, `Statement.Raw` declare a `@[simps]` equivalence onto their fields' product and take the instance through it; `Read.lean` has the three one-line laws at a presented instance (`readVal_ofEquiv`, `readable_ofEquiv_iff`, `reads_ofEquiv_iff`), so `simp only [circuitVal]` computes any structure's reading and the per-structure `readVal_*`/`readable_*_iff`/`reads_*_iff` trios are gone (schnorr's, and Poseidon's). The sponge state is PS's `Vector 3 f`: one carrier `Poseidon.Triple α` at `F` and at `FVar F` — the port's variables-only `SpongeState` is deleted, every instance it needed is the generic product one, and the cells keep their names as the reducible projections `Triple.s0/s1/s2`. Finally the statement itself uses `CurvePoint` as intended: `Statement.Raw`'s points are `VestaPoint` fields, so its `CheckedType` is derived (`CheckedType.ofEquiv` over the fields' product — the points pay `CurvePoint.check`, the `Type1` cell nothing) and the hand-written `Statement.Raw.check` is gone; the boundary composes `CurvePoint.check_spec`/`check_complete_spec` (now `@[spec]`) through the derived program. And there is one statement type and one verifier: `Statement α` (the carrier-parameterized type — `Statement Fq` on the wire, `Statement (FVar Fq)` in-circuit) and `verify : Statement Fq → Bool`, which deserializes (both points on Vesta, nonzero response decode — the deployed `unshift_nonzero` convention) and checks `[z]·G = u + [c]·pk` with scalars acting through pasta's `Fp`-module structure on the point group (`vestaPointModule`, plus the same action on Mathlib's carrier, `vestaAffineModule`). `verify_iff` reads it in Mathlib's group — the form the gadget laws land on — so `verifyCircuit_compile_sound` concludes `verify (readVal V inputVar) = true` outright, `complete` takes any statement `verify` accepts, and `completeness` is the honest prover's serialized statement under the guard's nondegeneracy conditions. The `SWPoint`-based statement, the hand-rolled ℤ-scalar transport, and the existential/coordinate-equation packaging of the boundary are gone.

**Why `verifyCircuit_spec` was 180 lines, and the three library changes that make it 109.** Almost none of it was elliptic-curve reasoning: the gadget laws stop one step short of what a prime-field consumer needs, so the consumer re-derives the same facts. Now stated once: the deployed challenge beside `HasEndo.vesta` (`vesta_crumbs_eq`, `vesta_endoExpand`); the locks' canonical readings (`LawfulToNat.toNat_natCast` + `toNat_eq_of_natCast_eq`, `unpackFull_spec`'s pin in cast form, `natLsbVal_take_eq_mod`, `forall₂_bit_of_reads/_evals`); and the curve dictionaries as classes — `HasCurve` in its own module `Curve.lean` with the Pasta curves as instances, `HasEndo extends HasCurve`, the ladder and endo laws `@[spec]`-registered (the endo law takes its coefficient with the side condition `e = d.endo`, so any circuit's `endoMul e …` matches), and the addFast laws resolved by the class. The walk is still `mvcgen`/`intro` per step — `mvcgen` stops at each `Sound` post because the continuation's `wp` sits under the post's binder, a property of the triple encoding, not of registration — but it carries no dictionary plumbing.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

https://claude.ai/code/session_01XHVfsAXhVuM4ePKqzpYgMM

### CODE REVIEW

File: formal/schnorr/Schnorr/Circuit.lean [hunk 1]
```diff
@@ -159,12 +157,12 @@ private theorem dvd_band_iff {P Q v t : ℕ}
 
 /-- The decode hits zero exactly at `zeroCarrier` — the characterization the
 in-circuit exclusion inverts on both sides of the endpoint laws. -/
-theorem decodeCanonical_eq_zero_iff (zt : Type1 Fq) :
-    (Type1.decodeCanonical 255 zt : Fp) = 0 ↔ zt.val = zeroCarrier := by
+theorem fromShifted_eq_zero_iff (zt : Type1 Fq) :
```
Comment (martyall) [inline formal/schnorr/Schnorr/Circuit.lean]: this seems like a theorem that should be in one of the lower level shifted modules

File: formal/schnorr/Schnorr/Circuit.lean [hunk 2]
```diff
@@ -196,10 +194,8 @@ def verifyCircuit [BasicSystem Fq c] [KimchiSystem Fq c]
   let hbits ← unpackFull PALLAS_SCALAR_CARD 255 squeezed
   let cpk ← endoMul Pasta.vestaEndo 32 st.pk ⟨challengeOf hbits⟩
   let zr ← varBaseMul 255 51 ⟨.const gen.x, .const gen.y⟩ st.z
-  let ltz ← ltBitstringValue
-    (((zr.lsbBits.toList.take (5 * 51)).reverse).map .unchecked)
-    (modBitsMsb PALLAS_SCALAR_CARD 255)
-  Snarky.assert ltz
+  assertBitsBelow PALLAS_SCALAR_CARD 255
+    ((zr.lsbBits.toList.take (5 * 51)).map .unchecked)
```
Comment (martyall) [inline formal/schnorr/Schnorr/Circuit.lean]: 55, not 5 * 11

File: formal/snarky/Snarky/Circuit/DSL/UnpackFull.lean [hunk 3]
```diff
@@ -267,6 +239,67 @@ theorem ltBitstringValue_complete_spec [Field F] [DecidableEq F] [BasicSystem F
         · exact ((h2 _ _ _ rfl rfl)).elim
         · exact ((h1 _ _ _ rfl rfl)).elim
 
+open Std.Do in
+/-- The lock's rows force the read bits' ℕ value strictly below `m`. -/
+theorem assertBitsBelow_spec [Field F] [DecidableEq F] [BasicSystem F c]
```
Comment (martyall) [inline formal/snarky/Snarky/Circuit/DSL/UnpackFull.lean]: why is this not registered for mvcgen

File: formal/snarky/Snarky/Circuit/DSL/UnpackFull.lean [hunk 4]
```diff
@@ -267,6 +239,67 @@ theorem ltBitstringValue_complete_spec [Field F] [DecidableEq F] [BasicSystem F
...
+    rw [Bool.not_eq_true] at h
+    rw [h] at hltv
+    simp [bit] at hltv
+  have := (ltPure_iff_lt (by
+    rw [List.length_reverse, modBitsMsb_length, ← hfa.length_eq, hlen])).mp hltrue
+  rwa [msbVal_modBitsMsb hm, msbVal_reverse] at this
+
+open Std.Do in
+/-- The lock's honest run succeeds on bits reading as a value below `m`. -/
+theorem assertBitsBelow_complete_spec [Field F] [DecidableEq F] [BasicSystem F c]
```
Comment (martyall) [inline formal/snarky/Snarky/Circuit/DSL/UnpackFull.lean]: not registered for mvcgen

File: formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean [hunk 5]
```diff
@@ -534,14 +557,93 @@ private theorem threaded_sound [Field F] [DecidableEq F]
 
 end VarBaseMul
 
-open Kimchi.Gate.VarBaseMul (bitsRegister bitsVal) in
+open Kimchi.Gate.VarBaseMul (bitsVal) in
+/-- The gate layer's ℤ bit fold is the ℕ `msbVal` of the decided bits. -/
+theorem bitsVal_eq_msbVal [Field F] [DecidableEq F] :
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean]: why are we not using one canonical representation, either bitsval or msbVal, instead of allowing either and proving equivalence. This lieads to forking and all kinds of boilerplate

File: formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean [hunk 6]
```diff
@@ -534,14 +557,93 @@ private theorem threaded_sound [Field F] [DecidableEq F]
...
+    · rw [if_pos rfl, decide_eq_true (rfl : (1 : F) = 1)]
+      push_cast [Bool.toNat_true]
+      ring
+
+open Kimchi.Gate.VarBaseMul (bitsRegister bitsVal bitsRegister_eq_cast) in
+/-- The gate seam's one representation bridge: a boolean MSB-first field-bit list
+read off a wire slice has an LSB-first boolean view — per-index readings of the
+wires, and both gate-layer folds at the view's one integer. Stated once; the ladder
+laws compose through it and no other proof converts representations. -/
+theorem exists_lsbView [Field F] [DecidableEq F] {V : Valuation F}
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean]: private

File: formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean (hunk 5 above)
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean]: private

File: formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean [hunk 7]
```diff
@@ -551,15 +653,15 @@ theorem varBaseMul_spec [Field F] [DecidableEq F] [ToNat F] (d : HasCurve F)
...
-            (∀ b ∈ bits, b = 0 ∨ b = 1) ∧ bits.length = 5 * chunks ∧
-            bits = ((r.lsbBits.toList.take (5 * chunks)).reverse).map (·.val V) ∧
-            scalar.val.val V = bitsRegister bits ∧
+          ∃ bs : Vector Bool (5 * chunks),
+            (∀ i (hi : i < 5 * chunks),
+              (r.lsbBits[i]'(lt_of_lt_of_le hi hn)).val V = bit bs[i]) ∧
+            scalar.val.val V = ((natLsbVal bs.toList : ℕ) : F) ∧
             ∀ _ : d.LadderRegime (5 * chunks)
-                (Type1.fromShifted (5 * chunks) ⟨bitsVal bits⟩),
+                (2 * (natLsbVal bs.toList : ℤ) + 2 ^ (5 * chunks) + 1),
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean]: there is a name for this expression

File: formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean [hunk 8]
```diff
@@ -551,15 +653,15 @@ theorem varBaseMul_spec [Field F] [DecidableEq F] [ToNat F] (d : HasCurve F)
...
               ∃ hfin : d.W.Nonsingular (r.g.x.val V) (r.g.y.val V),
                 Point.some _ _ hfin
-                  = Type1.fromShifted (5 * chunks) ⟨bitsVal bits⟩
+                  = (2 * (natLsbVal bs.toList : ℤ) + 2 ^ (5 * chunks) + 1)
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/VarBaseMul.lean]: there is a name for this expression
